US04435406
400 ml of 4 N hydrochloric acid in methanol were added dropwise at reflux temperature to 22.4 g of 7-acetamino-8-nitro-3,4-dihydro-2H-1,5-benzodioxepine in 2000 ml of methanol, then the mixture was boiled overnight. After evaporation, the residue was taken up in methylene chloride, washed with 2 N soda and twice with water, dried over sodium sulfate and again evaporated. The crude product was recrystallized from alcohol. 17.1 g (92.0% of theory) of 7-amino-8-nitro-3,4-dihydro-1H-1,5-benzodioxepine of melting point 125°-126° C. were obtained.

reactant | hydrochloric acid | 4 N, 400 ml | Cl | ClH
reactant | 7-acetamino-8-nitro-3,4-dihydro-2H-1,5-benzodioxepine | 22.4 g | N(C(=O)C)C1=CC2=C(OCCCO2)C=C1[N+](=O)[O-] | C11H12N2O5
solvent | methanol | CO | CH4O
solvent | methanol | 2000 ml | CO | CH4O
product | 7-amino-8-nitro-3,4-dihydro-1H-1,5-benzodioxepine | 17.1 g, 92.0% | NC1=CC2=C(OCCCO2)C=C1[N+](=O)[O-] | C9H10N2O4
